US07772221B2
Step AI (5): 5-Methyl-2-(pent-4-enyl)benzaldehyde (170 mg, 0.90 mmol) and ammonium acetate (10.44 g, 135.5 mmol) was dissolved in methanol (35 mL). Sodium cyanoborohydride (341 mg, 5.42 mmol) was added. The reaction mixture was stirred at 65° C. in a high-pressure vessel for 1 h. Aqueous sodium bicarbonate solution was added and the reaction mixture was extracted with DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum. The residue was purified by reverse phase chromatography to give (5-methyl-2-(pent-4-enyl)phenyl)methanamine (57 mg, 33%) as a colorless oil. LC-MS (M+H)+=190.09.

reactant | 5-Methyl-2-(pent-4-enyl)benzaldehyde | 0.90 mmol, 170 mg | CC=1C=CC(=C(C=O)C1)CCCC=C | C13H16O
reactant | ammonium acetate | 135.5 mmol, 10.44 g | C(C)(=O)[O-].[NH4+]
reactant | Sodium cyanoborohydride | 5.42 mmol, 341 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | (5-methyl-2-(pent-4-enyl)phenyl)methanamine | 57 mg, 33% | CC=1C=CC(=C(C1)CN)CCCC=C | C13H19N
